US06413938B1
Following General Procedure V, isopropylamine (Aldrich, 3 mL, 34.92 mmol), and 2-bromo-5,6-dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole (200 mg, 0.52 mmol) were reacted for 16 h. Purification on a silica gel column with 1:15 methanol:CH2Cl2 gave 5,6-dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine (168 mg, 0.47 mmol, 90%); MS (EI): m/z (rel. intensity) 360 (0.17, M+); 1H NMR (DMSO-d6) δ7.41 (s, 1H, Ar—H), 7.32 (s,1H, Ar—H), 6.63 (d; 1H, NH, J=7.3 Hz), 5.73 (d, 1H, CH, J=6.6 Hz), 5.26 (m, 2H, 2 overlapping OH), 4.33 (m, 1H, CH), 4.01 (m, 1H, CH), 3.91 (m, 1H, CH), 3.81 (m, 1H, CH), 1.37 (d, 3H, CH3, J=6.1 Hz), 1.21 (d, 6H, CH3, J=6.3 Hz).

reactant | isopropylamine | 34.92 mmol, 3 mL | C(C)(C)N | C3H9N
reactant | 2-bromo-5,6-dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 0.52 mmol, 200 mg | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)C)C=C(C(=C2)Cl)Cl | C12H11BrCl2N2O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5,6-dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 0.47 mmol, 168 mg, 90% | ClC1=CC2=C(N(C(=N2)NC(C)C)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C)C=C1Cl | C15H19Cl2N3O3
